US08975265B2
Step 2: [1-(4-{6-[(2-methoxy-ethylamino)-methyl]-3-phenyl-imidazo[1,2-a]pyridin-2-yl}-phenyl)-cyclobutyl]-carbamic acid tert-butyl ester
A mixture of {1-[4-(6-chloromethyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (103 mg) and 2-methoxyethylamine (31 mg, 0.035 mL) in THF (1.1 mL) was heated at 110° C. under microwave irradiation for 1 hour. On cooling, the reaction mixture was concentrated in vacuo to give the crude title compound which was used in the next step without further purification.

reactant | {1-[4-(6-chloromethyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 103 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)CCl)C1C1=CC=CC=C1)=O | C29H30ClN3O2
reactant | 2-methoxyethylamine | 0.035 mL, 31 mg | COCCN | C3H9NO
solvent | THF | 1.1 mL | C1CCOC1 | C4H8O
product | [1-(4-{6-[(2-methoxy-ethylamino)-methyl]-3-phenyl-imidazo[1,2-a]pyridin-2-yl}-phenyl)-cyclobutyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)CNCCOC)C1C1=CC=CC=C1)=O | C32H38N4O3
